US07960409B2
Step 2: 4-(bromoacetyl)-7-methyl-2H-chromen-2-one
To a solution of 4-(1-ethoxyvinyl)-7-methyl-2H-chromen-2-one (1.56 g, 6.77 mmol) in THF-water (27.5 mL, 10/1 mixture), N-bromosuccinimide (1.33 g, 7.45 mmol) was added. The reaction was then stirred at room temperature. After 3 hours stirring, toluene was added and the crude mixture was evaporated under reduced pressure. The crude residue obtained was purified by column chromatography (EtOAc/hexanes, 30:70) to afford the title compound. 1H NMR (400 MHz, acetone-d6): 7.71 (d, 1H), 7.24 (s, 1H), 7.22 (d, 1H), 6.94 (s, 1H), 4.90 (s, 2H), 2.50 (s, 3H).

reactant | 4-(1-ethoxyvinyl)-7-methyl-2H-chromen-2-one | 6.77 mmol, 1.56 g | C(C)OC(=C)C1=CC(OC2=CC(=CC=C12)C)=O | C14H14O3
reactant | N-bromosuccinimide | 7.45 mmol, 1.33 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF water | 27.5 mL | C1CCOC1.O
product | 4-(bromoacetyl)-7-methyl-2H-chromen-2-one | BrCC(=O)C1=CC(OC2=CC(=CC=C12)C)=O | C12H9BrO3
